US04248618
Potassium hydroxide pellets (22.4 g) and molten p-methoxyphenol (50 g) were heated with stirring to a temperature in the range from 90° to 100° C. until a clear solution was obtained. Chloroacetaldehyde diethylacetal (120 g) was added at such a rate to maintain the temperature in the range from 90° to 100° C. and after stirring for a further 15 minutes water was removed from the flask as an azeotrope with chloroacetaldehyde diethylacetal, the water and acetal were separated and the acetal was returned to the reaction mixture. Azeotropic distillation was continued until the temperature of the vapour reached 140°-150° C. and then the reaction mixture was heated under reflux for a further 6 hr. Water (200 ml) was added to the cooled mixture which was then extracted with chloroform (2×200 ml). The choroform extracts were washed with aqueous 2 N sodium hydroxide (100 ml) to remove unreacted phenols and the chloroform layer was dried over Na2SO4 and the solvent removed by distillation under reduced pressure. The crude product was distilled under reduced pressure to give, as a third fraction, p-methoxyphenoxyacetaldehyde diethyl acetal (45.6 g) of b.p. 180°-194° C. at 44 mm the product being characterised by p.m.r. spectroscopy.

reactant | Potassium hydroxide | [OH-].[K+]
reactant | p-methoxyphenol | 50 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | Chloroacetaldehyde diethylacetal | 120 g | C(C)OC(CCl)OCC | C6H13ClO2
solvent | water | O | H2O
product | p-methoxyphenoxyacetaldehyde diethyl acetal | 45.6 g | C(C)OC(COC1=CC=C(C=C1)OC)OCC | C13H20O4
